US04839360
To 1.00 g of 1-(4-chlorophenyl)-6-(4-hydroxyphenyl)-2-piperidone was added 25 ml of acetic anhydride and the mixture was stirred at 120° C. for 1 hour. The solvent was evaporated under reduced pressure and the residue was recrystallized from ethyl acetate to give 910 mg of 1-(4-chlorophenyl)-6-(4-acetoxyphenyl)-2-piperidone as colorless prisms.

reactant | 1-(4-chlorophenyl)-6-(4-hydroxyphenyl)-2-piperidone | 1.00 g | ClC1=CC=C(C=C1)N1C(CCCC1C1=CC=C(C=C1)O)=O | C17H16ClNO2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-chlorophenyl)-6-(4-acetoxyphenyl)-2-piperidone | 910 mg, Yield: 80% | ClC1=CC=C(C=C1)N1C(CCCC1C1=CC=C(C=C1)OC(C)=O)=O | C19H18ClNO3
